US05500406
1.55 g (10 mmol) of 2-amino-4,6-dimethoxypyrimidine was dissolved in 40 ml of dry tetrahydrofuran, and 1.42 g (10 mmol) of chlorosulfonyl isocyanate was dropwise added thereto at -40° C. The reaction temperature was raised to 0° C., and then the reaction mixture was cooled again to -60° C. Then, 1.90 g (12 mmol) of 2-imino-3-n-butylthiazolidine suspended in 40 ml of dry tetrahydrofuran containing 1.33 g (13 mmol) of triethylamine, was added thereto. The reaction temperature was raised to room temperature, and the mixture was further stirred at the same temperature for one hour. Then, the solvent was distilled off under reduced pressure. Then, water was added to the residue, and the mixture was extracted three times with chloroform. The chloroform layer was washed sequentially with water and a saturated sodium chloride aqueous solution, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. The obtained crystals were washed with ethyl ether to obtain 2.8 g of desired 1-(3-n-butylthiazolidine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea.

reactant | 2-amino-4,6-dimethoxypyrimidine | 10 mmol, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-imino-3-n-butylthiazolidine | 12 mmol, 1.90 g | N=C1SCCN1CCCC | C7H14N2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 13 mmol, 40 ml, 1.33 g | O1CCCC1 | C4H8O
product | 1-(3-n-butylthiazolidine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea | 2.8 g | C(CCC)N1C(SCC1)S(=O)(=O)N=NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H22N6O5S2
